US05922771
N-[2-(6-Bromo-5-methoxy-1H-inden-3-yl)ethyl]propionamide
Starting with 2-(6-bromo-5-methoxy-1H-inden-3-yl)ethylamine hydrochloride and propionyl chloride, the title compound was synthesized in otherwise the same manner as Example 8 (yield 95%).

reactant | 2-(6-bromo-5-methoxy-1H-inden-3-yl)ethylamine hydrochloride | Cl.BrC1=C(C=C2C(=CCC2=C1)CCN)OC
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
product | N-[2-(6-Bromo-5-methoxy-1H-inden-3-yl)ethyl]propionamide | BrC1=C(C=C2C(=CCC2=C1)CCNC(CC)=O)OC | C15H18BrNO2
